US08242104B2
Step 4: 6-Chloro-4-(1H-imidazol-2-yl)pyridin-3-ol
Hydrogen chloride in dioxane (4 M, 40 mL) was added dropwise to a solution of 2.06 g (8.60 mmol) of 2-chloro-4-(1H-imidazol-2-yl)-5-(methoxymethoxy)pyridine in Methylene chloride (40 mL, 600 mmol). The suspension was stirred for 2 hours and filtered. The solid was washed with DCM, ether and dried in vacuum. Yield of 6-chloro-4-(1H-imidazol-2-yl)pyridin-3-ol dihydrochloride 2.31 g (100%). MS (ESI+): 196.2. 1H NMR (400 MHz, DMSO) δ 13.20 (s, 1H), 8.14 (s, 1H), 7.96 (s, 1H), 7.42 (s, 2H).

reactant | Hydrogen chloride | Cl | ClH
reactant | 2-chloro-4-(1H-imidazol-2-yl)-5-(methoxymethoxy)pyridine | 8.60 mmol, 2.06 g | ClC1=NC=C(C(=C1)C=1NC=CN1)OCOC | C10H10ClN3O2
reactant | Methylene chloride | 600 mmol, 40 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 4 M, 40 mL | O1CCOCC1 | C4H8O2
product | 6-Chloro-4-(1H-imidazol-2-yl)pyridin-3-ol | ClC1=CC(=C(C=N1)O)C=1NC=CN1 | C8H6ClN3O
